US08017630B2
N-Benzyl-2-(4-dimethylamino-4-phenylcyclohexylidene)-acetamide
1-Hydroxybenzotriazole (273 mg, 2.0 mmol), benzylamine (0.109 ml, 1.0 mmol) and N-methylmorpholine (0.222 ml, 2.0 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (296 mg, 1.0 mmol) in dry dimethylformamide (10 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (417 mg, 2.0 mmol) was added. The reaction mixture was stirred at RT for 12 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. 5 M sodium hydroxide solution (4 ml, 20 mmol) was added to the aqueous phase and the mixture was diluted with water (300 ml) and stored at 5° C. for 3 d. The product thereby precipitated out as a colourless solid in a yield of 65% (227 mg) and with an m.p. of 145-148° C.

reactant | 1-Hydroxybenzotriazole | 2.0 mmol, 273 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 1.0 mmol, 0.109 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | N-methylmorpholine | 2.0 mmol, 0.222 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 1.0 mmol, 296 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 2.0 mmol, 417 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 20 mmol, 5 M, 4 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | N-Benzyl-2-(4-dimethylamino-4-phenylcyclohexylidene)-acetamide | yield of 65% | C(C1=CC=CC=C1)NC(C=C1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C23H28N2O
